US07977481B2
A solution of 5-(2-methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonyl chloride (200 mg, 0.652 mmol) in 6 mL DCM was treated with pyridine (0.078 mL, 0.97 mmol) and 2 M dimethylamine/THF (0.485 mL, 0.97 mmol). The solution was stirred overnight. Additional 2 M dimethylamine/THF (0.400 mL, 0.8 mmol) was added and the reaction was stirred overnight. The mixture contained <5% starting material by LCMS. The mixture was washed 2×1 N HCl, 1× brine and dried over Na2SO4. 5-(2-Methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid dimethylamide (154 mg, 74.9%) was obtained as an off-white solid, >95% pure by LCMS. This material was taken to the next step. MS: m/z 316 (M+H+).

reactant | 5-(2-methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonyl chloride | 0.652 mmol, 200 mg | CSC1=NC=CC(=N1)C1=CC=C(S1)S(=O)(=O)Cl | C9H7ClN2O2S3
reactant | pyridine | 0.97 mmol, 0.078 mL | N1=CC=CC=C1 | C5H5N
reactant | dimethylamine THF | 0.97 mmol, 2 M, 0.485 mL | CNC.C1CCOC1
reactant | dimethylamine THF | 0.8 mmol, 2 M, 0.400 mL | CNC.C1CCOC1
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | 5-(2-Methylsulfanyl-pyrimidin-4-yl)-thiophene-2-sulfonic acid dimethylamide | 154 mg, 74.9% | CN(S(=O)(=O)C=1SC(=CC1)C1=NC(=NC=C1)SC)C | C11H13N3O2S3
